US06136843
3-[1-(1,3-Benzodioxol-5-yl)-2-[4-(2-hydroxyethyl)phenyl]sulfonamido-2-oxoethyl]-6-chloro-1-methyl-1H-indole
Lithium aluminium hydride (6 mg, 0.16 mmol) was added to a stirred solution of ethyl 2-(4-[2-(1,3-benzodioxol-5-yl)-2-(6-chloro-1-methyl-1H-3-indolyl)acetyl]sulfamoylphenyl)acetate (the product of Example 89, 80 mg, 0.14 mmol) in tetrahydrofuran (6 ml) at 0° C. under a nitrogen atmosphere. After 40 mins ethyl acetate (1 ml) was slowly added and the reaction mixture was poured into hydrochloric acid (50 ml). The product was extracted into ethyl acetate (2×50 ml), dried (MgSO4) and concentrated. Recrystallisation (methanol/ether) gave the product as a white crystalline solid (50 mg).

reactant | Lithium aluminium hydride | 0.16 mmol, 6 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-(4-[2-(1,3-benzodioxol-5-yl)-2-(6-chloro-1-methyl-1H-3-indolyl)acetyl]sulfamoylphenyl)acetate | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)CC(=O)OCC)C2=CN(C1=CC(=CC=C21)Cl)C | C28H25ClN2O7S
reactant | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 3-[1-(1,3-Benzodioxol-5-yl)-2-[4-(2-hydroxyethyl)phenyl]sulfonamido-2-oxoethyl]-6-chloro-1-methyl-1H-indole | 50 mg | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)CCO)C2=CN(C1=CC(=CC=C21)Cl)C | C26H23ClN2O6S
